US05773446
63.6 g of methyl 3,4-dimethoxy-5-hydroxy-benzoate [E. Spath and H. Roder, Monatsh. fur Chemie, 43, 93 (1923)], 38.5 g of (RS)-1-cyclopropyl-prop-2-yn-1-ol and 118 g of triphenylphosphine were dissolved in 600 ml of toluene under argon and cooled to 5° C. A solution of 70 ml of diethyl azodicarboxylate in 150 ml of toluene was slowly added dropwise thereto at 5° C. over 90 min. The mixture was stirred at 5° C. for a further 1 hr. and at 20° C. for 3 hrs. Then, 300 ml of toluene were distilled off on a rotary evaporator and the suspension obtained was stirred in an ice bath for 30 min. The separated triphenylphosphine oxide was filtered off and the filtrate was evaporated. The resulting oil was chromatographed on silica gel with hexane/ethyl acetate 4:1, then 3:1. Crystallization was effected from diethyl ether and hexane. There was obtained methyl (RS)-3-(1-cyclopropyl-prop-2-ynyloxy)-4,5-dimethoxy-benzoate as white crystals.

reactant | methyl 3,4-dimethoxy-5-hydroxy-benzoate | 63.6 g | COC=1C=C(C(=O)OC)C=C(C1OC)O | C10H12O5
reactant | (RS)-1-cyclopropyl-prop-2-yn-1-ol | 38.5 g | C1(CC1)C(C#C)O | C6H8O
reactant | triphenylphosphine | 118 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 70 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | methyl (RS)-3-(1-cyclopropyl-prop-2-ynyloxy)-4,5-dimethoxy-benzoate | C1(CC1)C(C#C)OC=1C=C(C(=O)OC)C=C(C1OC)OC | C16H18O5
